US09376418B2
n-Butyllithium (6.85 mL, 11.0 mmol) was added to a suspension of 2,6-dibromopyridine (2.36 g, 9.96 mmol) in dichloromethane (60 mL) at −78° C. The reaction mixture was stirred for 15 minutes and cyclobutanone (0.838 g, 12.0 mmol) was added in one portion at −78° C. The reaction was stirred for an additional 30 minutes before pouring the reaction into a mixture of saturated aqueous NH4Cl and dichloromethane. The organic layer was concentrated to dryness and was purified by flash chromatography to yield 1-(6-bromopyridin-2-yl)cyclobutanol as a light yellow oil. MS ESI calc'd. for C9H11BrNO [M+H]+ 228 and 230. found 228 and 230.

reactant | n-Butyllithium | 11.0 mmol, 6.85 mL | C(CCC)[Li]
reactant | 2,6-dibromopyridine | 9.96 mmol, 2.36 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | cyclobutanone | 12.0 mmol, 0.838 g | C1(CCC1)=O | C4H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 1-(6-bromopyridin-2-yl)cyclobutanol | BrC1=CC=CC(=N1)C1(CCC1)O | C9H10BrNO
